US04307106
N-furfurylthiourea (0.82 grams, 0.005 moles) and α-bromopropiophenone (1.07 grams, 0.005 moles, Aldrich Chem. Co.) in 11 ml absolute ethanol were heated to reflux temperature under nitrogen for 3 hours. After cooling to room temperature, the solvent was removed under vacuum to give a thick brown oil, which was triturated with five 35 ml portions of refluxing ethyl acetate. The ethyl acetate was reduced in volume to about 25 ml and cooled to room temperature. The precipitated solids were filtered, washed with ethyl acetate and vacuum dried over phosphorous pentoxide, yielding 0.585 grams (33%) of 2-furfurylamino-5-methyl-4-phenyl-thiazole hydrobromide, m.p. 150°-153° C.

reactant | N-furfurylthiourea | 0.005 moles, 0.82 grams | C(C1=CC=CO1)NC(=S)N | C6H8N2OS
reactant | α-bromopropiophenone | 0.005 moles, 1.07 grams | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | ethanol | 11 ml | C(C)O | C2H6O
product | 2-furfurylamino-5-methyl-4-phenyl-thiazole hydrobromide | 0.585 grams, 33% | Br.C(C1=CC=CO1)NC=1SC(=C(N1)C1=CC=CC=C1)C | InChI=1S/C15H14N2OS.BrH/c1-11-14(12-6-3-2-4-7-12)17-15(19-11)16-10-13-8-5-9-18-13;/h2-9H,10H2,1H3,(H,16,17);1H
